US09315521B2
6-methyl-2-[(pyridin-3-ylmethyl)sulfanyl]pyrimidin-4-ol hydrochloride
To a solution of 6-methyl-2-[(pyridin-3-ylmethyl)sulfanyl]pyrimidin-4-ol (153 mg, 0.66 mmol) in MeOH (3 mL) was added 4 M HCl/dioxane (1 mL, 4.0 mmol). The mixture was evaporated and dried in vacuo, affording the title compound (176 mg, 99% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.23 (s, 3H), 4.52 (s, 2H), 6.09 (s (br), 1H), 8.03 (td, 1H, J=5.9 Hz, 8.0 Hz), 8.68 (d, 1H, J=8.2 Hz), 8.81 (d, 1H, J=5.3 Hz), 9.05 (s, 1H); M+234.

reactant | 6-methyl-2-[(pyridin-3-ylmethyl)sulfanyl]pyrimidin-4-ol | 0.66 mmol, 153 mg | CC1=CC(=NC(=N1)SCC=1C=NC=CC1)O | C11H11N3OS
reactant | HCl dioxane | 4.0 mmol, 4 M, 1 mL | Cl.O1CCOCC1
solvent | MeOH | 3 mL | CO | CH4O
product | 6-methyl-2-[(pyridin-3-ylmethyl)sulfanyl]pyrimidin-4-ol hydrochloride | 176 mg, 99% yield | Cl.CC1=CC(=NC(=N1)SCC=1C=NC=CC1)O | InChI=1S/C11H11N3OS.ClH/c1-8-5-10(15)14-11(13-8)16-7-9-3-2-4-12-6-9;/h2-6H,7H2,1H3,(H,13,14,15);1H
